US06730792B2
A solution of 5-bromothiophene-2-carbonitrile (1.25 g, 6.65 mmol) in 50 ml of dioxane is degassed with argon, tetrakis-(triphenylphosphine)-palladium(0) (768 mg, 0.665 mmol) is added and the mixture is stirred for 5 minutes. 2-Methoxybenzene boronic acid (2.02 g, 13.3 mmol) and aqueous 2 N sodium carbonate (13.3 ml) are successively added and the mixture is stirred for 16 hours at 85° C. Extractive work-up (2×50 ml dichloromethane and 2×30 ml water). The organic phase is dried over sodium sulfate, filtrated and evaporated. The residue (4.05 g) is purified via flash column on silica (eluent: 100% hexane>hexane/ethyl acetate 96:4 gradient to give 1.37 g of 2-(5-cyanothien-2-yl)anisole (96%). M+=215.

reactant | 5-bromothiophene-2-carbonitrile | 6.65 mmol, 1.25 g | BrC1=CC=C(S1)C#N | C5H2BrNS
reactant | 2-Methoxybenzene boronic acid | 13.3 mmol, 2.02 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | sodium carbonate | 2 N, 13.3 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis-(triphenylphosphine)-palladium(0) | 0.665 mmol, 768 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 30 ml | O | H2O
product | 2-(5-cyanothien-2-yl)anisole | 1.37 g, 96% | C(#N)C1=CC=C(S1)C1=C(C=CC=C1)OC | C12H9NOS
